US07378418B2
278C. Preparation of 8-(4-Chlorophenyl)-7-(4-(oxazol-2-yl)phenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
7-Chloro-8-(4-chlorophenyl)-2-(6-(trifluoromethyl)pyridin-3-yl)methyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, prepared as described in Example 277 and 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)oxazole were reacted using procedures analogous to those described in Example 276 to give the title compound, 8-(4-chlorophenyl)-7-(4-(oxazol-2-yl)phenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one. HPLC: 99% at 8.42 min (retention time) (Conditions: Zorbax SB C18 (4.6×75 mm); Eluted with 0% to 100% B, 8 min gradient. (A=90% H2O—10% MeOH—0.1% H3PO4 and B=10% H2O—90% MeOH—0.1% H3PO4); Flow rate at 2.5 mL/min. UV detection at 220 nm). MS (ES): m/z 549 [M+H]+; 1H NMR (CDCl3, 400 MHz): δ 5.32 (s, 2H), 7.23-7.32 (m, 2H), 7.40-7.59 (m, 4H), 7.62-7.78 (m, 4H), 7.90-8.05 (m, 2H), 8.24-8.27 (m, 1H), 8.81 (s, 1H).

reactant | 7-Chloro-8-(4-chlorophenyl)-2-(6-(trifluoromethyl)pyridin-3-yl)methyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | ClC1=C(C=2N(N=C1)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=C(C=C2)Cl | C18H10Cl2F3N5O
reactant | 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)oxazole | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1OC=CN1)C | C15H18BNO3
product | 8-(4-chlorophenyl)-7-(4-(oxazol-2-yl)phenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | ClC1=CC=C(C=C1)C=1C=2N(N=CC1C1=CC=C(C=C1)C=1OC=CN1)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C27H16ClF3N6O2
